US06355642B1
6-Acetyl-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
A 170 ml portion of DMF solution of 6-acetyl-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one (3.2 g, 14.9 mmol) was cooled to −5° C. Thereto was added 0.7 g of sodium hydride (16.4 mmol), and the resulting solution was stirred at 0° C. for 30 minutes and then cooled to −40° C. Thereto was added 8.9 ml of 1,4-dibromobutane (74.5 mmol), and the mixture was stirred overnight while gradually increasing the temperature in an atmosphere of argon. The reaction solution was extracted with ethyl acetate and washed with water. After drying (Na2SO4), the oily substance obtained by the evaporation of the solvent under a reduced pressure was purified by a silica gel column chromatography (700 cc; elution with ethyl acetate-hexane=2:3) and then recrystallized from ethyl acetate-hexane to obtain 2.26 g of the title compound (43% in yield).

reactant | 6-acetyl-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 14.9 mmol, 3.2 g | C(C)(=O)C1=C2C=3C(C(NC3C=C1)=O)CCC2 | C13H13NO2
reactant | sodium hydride | 16.4 mmol, 0.7 g | [H-].[Na+]
reactant | 1,4-dibromobutane | 74.5 mmol, 8.9 ml | BrCCCCBr | C4H8Br2
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Acetyl-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 2.26 g, 43% | C(C)(=O)C1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCBr | C17H20BrNO2
